US07871982B2
(i) (S)-Methyl 2-(2-nitrophenylsulfonamido)pent-4-enoate
L-2-Amino-4-pentenoic acid was added to a solution of 3.18 ml (43.5 mmol) of thionyl chloride in methanol (40 ml) which had been cooled to 0° C., and the mixture was stirred at room temperature for 24 hr. The reaction solution was concentrated under the reduced pressure and was then dried. A solution of this crude product thus obtained in diethyl ether (26 ml) was cooled to 0° C., and a saturated aqueous sodium hydrogencarbonate solution (26 ml) was added thereto. 2-Nitrobenzenesulfonyl chloride (4.24 g, 19.14 mmol) was added thereto, and the mixture was stirred at room temperature for 7 hr. Thereafter, the reaction solution was cooled to 0° C., N,N-dimethylethylenediamine (2 ml) was added thereto, and the mixture was stirred at room temperature for 30 min. The organic layer was separated. The aqueous layer was adjusted to pH 3 by the addition of citric acid and was extracted with diethyl ether. The combined organic layer was washed with a 3% aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution, and saturated brine in that order, was dried over anhydrous sodium sulfate and was then filtered. The filtrate was concentrated under the reduced pressure, and the residue was then purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give 4.52 g (yield 83%) of the title compound.

reactant | L-2-Amino-4-pentenoic acid | C=CC[C@@H](C(=O)O)N | C5H9NO2
reactant | thionyl chloride | 43.5 mmol, 3.18 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | 26 ml | C(O)([O-])=O.[Na+]
reactant | 2-Nitrobenzenesulfonyl chloride | 19.14 mmol, 4.24 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N,N-dimethylethylenediamine | 2 ml | CN(CCN)C | C4H12N2
solvent | methanol | 40 ml | CO | CH4O
product | (S)-Methyl 2-(2-nitrophenylsulfonamido)pent-4-enoate | 4.52 g, yield 83% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N[C@H](C(=O)OC)CC=C | C12H14N2O6S
